US09085555B2
A. 1-(6-Chloro-1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone
6-Chloro-7-azaindole (1 g, 6.55 mmol) was added to a suspension of AlCl3 (4.37 g, 32.8 mmol) in CH2Cl2 (150 mL) under nitrogen atmosphere. The mixture was stirred at RT for 30 min, and acetyl chloride (2.34 mL, 32.8 mmol) was added dropwise. The resulting mixture was further stirred at RT for 2 h. After completion, MeOH (40 mL) was added cautiously and volatils were removed under reduced pressure. The residue was diluted in CH2Cl2 and neutralized by addition of a saturated aqueous solution of NaHCO3. The layers were separated and the organic extracts were dried (Na2SO4), filtered and concentrated. The crude residue was purified twice by flash column chromatography on silica gel (CH2Cl2 to CH2Cl2/MeOH 95-5). TLC, Rf (CH2Cl2/MeOH 9:1)=0.5; MS (UPLC/MS): 195.1/197.1 [M+H]+, 193.1/195.1 [M−H]−; tR (HPLC conditions f): 1.54 min.

reactant | 6-Chloro-7-azaindole | 6.55 mmol, 1 g | ClC1=CC=C2C=CNC2=N1 | C7H5ClN2
reactant | AlCl3 | 32.8 mmol, 4.37 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | acetyl chloride | 32.8 mmol, 2.34 mL | C(C)(=O)Cl | C2H3ClO
reactant | MeOH | 40 mL | CO | CH4O
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 1-(6-Chloro-1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone | ClC1=CC=C2C(=N1)NC=C2C(C)=O | C9H7ClN2O
